US07501425B1
{5-[(2-Chloro-3,5-dimethoxy-phenylimino)-methyl]-2-methylsulfanyl-pyrimidin-4-yl}-ethyl-amine
Into a solution of 3.78 g (20.2 mmol) of 2-chloro-3,5-dimethoxy-phenylamine in 110 mL of toluene was added 3.97 g (20.15 mmol) of 4-ethylamino-2-methylsulfanyl-pyrimidine-5-carbaldehyde. The reaction vessel was equipped with a Dean-Stark trap, and the reaction was warmed to reflux. After 3 hours, two drops of concentrated sulfuric acid were added to the reaction. The reaction was refluxed overnight then concentrated in vacuo to give 7.36 g (93%) of the title compound, which was used as is in the following example:

reactant | 2-chloro-3,5-dimethoxy-phenylamine | 20.2 mmol, 3.78 g | ClC1=C(C=C(C=C1OC)OC)N | C8H10ClNO2
reactant | 4-ethylamino-2-methylsulfanyl-pyrimidine-5-carbaldehyde | 20.15 mmol, 3.97 g | C(C)NC1=NC(=NC=C1C=O)SC | C8H11N3OS
solvent | toluene | 110 mL | C1(=CC=CC=C1)C | C7H8
catalyst | sulfuric acid | two drops | S(O)(O)(=O)=O | H2O4S
product | {5-[(2-Chloro-3,5-dimethoxy-phenylimino)-methyl]-2-methylsulfanyl-pyrimidin-4-yl}-ethyl-amine | 7.36 g, 93% | ClC1=C(C=C(C=C1OC)OC)N=CC=1C(=NC(=NC1)SC)NCC | C16H19ClN4O2S
